US04200628
To a solution of 1.13 g (4.49 mmoles) of crude 1-diphenylmethyl-3-formylazetidine in a mixture of 2 ml of water and 2 ml of tetrahydrofuran is added 878 mg (3 equivalents) of potassium cyanide, and the mixture is stirred at room temperature for 2 hours, mixed with water and extracted with methylene chloride. The extract is washed with water, dried, and evaporated to yield 1.046 g of crude 2-hydroxy-2-(1-diphenylmethylazetidin-3-yl)acetonitrile as hemi-solid product in 83% yield.

reactant | 1-diphenylmethyl-3-formylazetidine | 4.49 mmoles, 1.13 g | C1(=CC=CC=C1)C(N1CC(C1)C=O)C1=CC=CC=C1 | C17H17NO
reactant | potassium cyanide | 878 mg, 3 equivalents | [C-]#N.[K+]
solvent | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-2-(1-diphenylmethylazetidin-3-yl)acetonitrile | 1.046 g, 83% yield | OC(C#N)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18N2O
